US04495190
Preparation of 4-(2-amino-6-chloropurin-9-yl)-2-fluorobutanol
Sodium borohyride (15 mg) was dissolved in dry diethyleneglycoldiethylether (0.9 ml) and stirred. Finely powdered and dry lithiumbromide (34 mg) was added, followed after 1/2 hour by 4-(2-amino-6-chloropurin-9-yl)-2-fluorobutyric acid ethyl ester (100 mg). The reaction mixture was heated at 100° C. for 3 hours, then poured onto crushed ice (10 g) with added concentrated hydrochloric acid (0.5 ml) and stirred. The pH was adjusted to 6.5 by sodium hydrogen carbonate, the solution was evaporated in vacuo and the residue was redissolved in methanol-chloroform (40-60, 10 ml) and filtered. The solution was purified by chromatography on a silica gel column eluted with a methanol-chloroform gradient, to give the desired product (52 mg, 60%) TLC (silica gel, methanol-chloroform 40-60): Rf =0.66. UV (ethanol)λmax : 310 and 247 nm.

reactant | Sodium | [Na] | Na
reactant | lithiumbromide | 34 mg | [Br-].[Li+]
reactant | 4-(2-amino-6-chloropurin-9-yl)-2-fluorobutyric acid ethyl ester | 100 mg | C(C)OC(C(CCN1C2=NC(=NC(=C2N=C1)Cl)N)F)=O | C11H13ClFN5O2
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-(2-amino-6-chloropurin-9-yl)-2-fluorobutanol | 52 mg, 60% | NC1=NC(=C2N=CN(C2=N1)CCC(CO)F)Cl | C9H11ClFN5O
